US04608380
3-[3-(Piperidinomethyl)phenoxy]propylamine (9.93 g) and 2-chloro-4-ethoxyquinoline (4.15 g) were heated, with stirring, at 160° C. for 41/4 hours. The reaction mixture was cooled to give a glass which was dissolved in dilute HCl to give a solution having a pH of 6. This solution was washed with diethyl ether (2×), taken to pH 5 and extracted continuously into chloroform. The chloroform extract was evaporated under reduced pressure to give a residue which was dissolved in water, taken to pH 9 with aqueous NaHCO3, and extracted into diethylether (7×) and chloroform (2×). These extracts were dried (MgSO4) and evaporated to give 2-[3-[3-(piperidinomethyl)phenoxy]propylamino]-4-ethoxyquinoline as an oil (7.92 g). This was dissolved in hot ethanol and treated with maleic acid in ethanol to give the dimaleate salt (7.53 g), m.p. 145.5°-147.5° C. (recrystallised from ethanol).

reactant | 3-[3-(Piperidinomethyl)phenoxy]propylamine | 9.93 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | 2-chloro-4-ethoxyquinoline | 4.15 g | ClC1=NC2=CC=CC=C2C(=C1)OCC | C11H10ClNO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HCl | Cl | ClH
solvent | water | O | H2O
product | 2-[3-[3-(piperidinomethyl)phenoxy]propylamino]-4-ethoxyquinoline | 7.92 g | N1(CCCCC1)CC=1C=C(OCCCNC2=NC3=CC=CC=C3C(=C2)OCC)C=CC1 | C26H33N3O2
